Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain, BRBPR, nausea/vomiting
 
Major Surgical or Invasive Procedure:
EGD ___
Colonoscopy ___

 
History of Present Illness:
HPI(4): Ms. ___ is a ___ female with a history of
Crohn's colitis s/p terminal ileum resection ___ and colectomy
in ___ who presented with abdominal pain and BRBPR.

About 2 days ago on ___, she started to have dark-colored
stools, which are very unusual for her, and then BRBPR (drops of
blood in the toilet and blood on the toilet paper). At baseline,
she normally has ___ stools a day, but sometimes it goes up to
___. She feels like her frequency of stooling is slightly 
above
baseline and greater than 10 per day. At the same time that she
developed the bloody stools, she started to have LLQ pain as 
well
as rectal pain. The pain is both aching and sharp, constant, and
non-radiating. It does feel like her Crohn's. Nothing makes it
significantly better or worse. The pain has been associated with
nausea and vomiting. She has had a few bouts of emesis with
bright red blood. Her last PO intake was a shake on ___
afternoon. On ___ she was able to eat a meatball and some
carrots. 
She woke up sweaty and hot on ___ night. She did not take
her temperature.

Her frequency of stooling has been at her baseline of ___ stools
per day. She also started to have LLQ pain associated with
nausea, vomiting, and coffee-ground emesis. She has only been
able to take in Pedialyte for the past 2 days. She has been
having subjective fevers at home.

Since arrival in the ED, her pain is unchanged. She feels a
little less nauseated since receiving antiemetics and pain meds. 


She denies lightheadedness, dizziness, chest pain, shortness of
breath, or palpitations. No coughing. No dysuria. No rashes or
skin changes. No lower extremity edema. She has been walking
around without issues.

For her Crohn's, she is followed by Dr. ___ at the
___. She last saw her about 6 months ago and had a
sigmoidoscopy which appeared normal. 
Currently she takes nutraceutical supplements for her Crohn's.
The last time she was on therapy for her Crohn's was ___ years
ago when she was on Remicaide. It worked well for her Crohn's 
but
she developed sinus infections so discontinued it. Her Crohn's
has been in remission since then.
Prior to Remicaide she was on ___, and prior to that she was on
Pentasa. 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative.

ED COURSE:
VS: Tmax 98.6, HR ___, BP ___, RR ___, SpO2
96-100% on RA
Exam: Exam notable for significant LLQ TTP w/o R/G.
Labs: CBC wnl, chem7 wnl, AST 98 otherwise LFTs wnl, lipase 61,
CRP 1, UA bland
Imaging: CT abd/pelvis with contrast: s/p total colectomy, no
bowel obstruction
Interventions:
 - morphine 4 mg IV x2
 - ondansetron 4 mg IV x2
 - normal saline 1L x2
 - hydromorphone 0.5 mg IV x3
 - paroxetine 40 mg PO x1
 - pantoprazole 40 mg IV x1
 - Lorazepam 0.5 mg IV x1
Consultants: GI - initial recommendations:
 -Please send CRP 
 -IV PPI
 -If clinical concern for SBO would have low threshold to place
NGT to Low intermittent suction especially given report of
emesis.
 -NPO for now, IVF
 
Past Medical History:
Crohn's s/p terminal ileum resection ___ and colectomy in ___
Depression and anxiety
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this illness/reason for 
hospitalization.
 
Physical Exam:
ADMISSION EXAM(8)
VITALS: T 98.4, HR 94, BP 112/69, RR 16, SpO2 96% on RA
GENERAL: Alert, NAD, appears comfortable laying in bed
EYES: Anicteric, PERRL
ENT: mmm, OP clear
CV: NR/RR, no m/r/g
RESP: CTAB, no wheezes, crackles, or rhonchi
ABD/GI: Soft, ND, TTP in LLQ without guarding or rebound
tenderness, normoactive bowel sounds
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
VASC/EXT: No ___ edema, 2+ DP pulses
SKIN: No rashes or lesions noted on visible skin
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
moves all limbs 
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM:
98.8 PO 115 / 77 76 18 97 RA 
GENERAL: Alert, NAD, appears comfortable laying in bed
EYES: Anicteric, PERRL
ENT: mmm, OP clear
CV: NR/RR, no m/r/g
RESP: CTAB, no wheezes, crackles, or rhonchi
ABD/GI: Soft, ND, mild TTP in LLQ without guarding or rebound 
tenderness, normoactive bowel sounds
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
VASC/EXT: No ___ edema, 2+ DP pulses
SKIN: No rashes or lesions noted on visible skin
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
moves all limbs 
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION LABS:
___ 02:45AM BLOOD WBC-6.3 RBC-4.14 Hgb-13.2 Hct-40.0 MCV-97 
MCH-31.9 MCHC-33.0 RDW-13.6 RDWSD-48.2* Plt ___
___:45AM BLOOD Glucose-84 UreaN-14 Creat-0.8 Na-135 
K-6.7* Cl-100 HCO3-24 AnGap-11
___ 02:45AM BLOOD ALT-30 AST-98* AlkPhos-80 TotBili-0.2
___ 02:45AM BLOOD Albumin-4.7

IMAGING:
CT ABD/PELVIS:
1. No findings to explain the patient's symptoms.  Specifically, 
no bowel obstruction.
2. Status post total colectomy.

EGD: Mild gastritis likely due to NSAID use. 

Colonoscopy: Mild stable ulcer in the rectum previously biopsied 
with outpatient GI provider. No other findings. 

DISCAHRGE LABS: 
___ 06:55AM BLOOD WBC-4.5 RBC-3.37* Hgb-10.7* Hct-33.2* 
MCV-99* MCH-31.8 MCHC-32.2 RDW-13.5 RDWSD-48.6* Plt ___
___ 06:45AM BLOOD Glucose-83 UreaN-8 Creat-0.7 Na-142 K-3.9 
Cl-106 HCO3-29 AnGap-7*
 
Brief Hospital Course:
___ female with a history of Crohn's colitis s/p 
terminal ileum resection ___ and colectomy
in ___ who presented with abdominal pain and BRBPR.

# Crohn's colitis
# LLQ abdominal pain
# BRBPR
# Nausea/vomiting, ?hematemesis 
Unclear etiology of abdominal pain, BRBPR, and nausea/vomiting. 
The patient has had recent work up at ___ without clear 
etiology. CRP is 1. CT abd/pelvis was unrevealing for etiology 
of the patient's pain and symptoms. GI consulted and 
EGD/Colonosocppy was negative unremarkable. She was tapered off 
opiate pain medication given lack of source for pain. She was 
offered non-narcotic pain control with acetaminophen, bentyl, 
simethicone, and gabapentin. She reported continued nausea and 
pain at tme of discharge but was hemodynamically stable and able 
to tolerate PO and maintain hydration without need for IV 
fluids. She reported nausea but no vomiting. 

CHRONIC/STABLE PROBLEMS:
# Anxiety/depression - Continued home mirtazapine and paroxetine 


Greater than 30 minutes was spent in care coordination and 
counseling on the day of discharge. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Mirtazapine 15 mg PO QHS 
2. PARoxetine 40 mg PO DAILY 
3. VSL#3 (Lactobac #2-Bifido #1-S. therm) 112.5 billion cell 
oral DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID 
RX *acetaminophen 500 mg 2 tablet(s) by mouth three times a day 
Disp #*50 Tablet Refills:*0 
2.  DICYCLOMine 10 mg PO TID 
RX *dicyclomine 10 mg 1 tablet(s) by mouth three times a day 
Disp #*30 Capsule Refills:*0 
3.  Gabapentin 300 mg PO TID 
RX *gabapentin 300 mg 1 capsule(s) by mouth three times a day 
Disp #*60 Capsule Refills:*0 
4.  Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth once a day Disp #*28 
Capsule Refills:*0 
5.  Ondansetron ODT 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 

  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *ondansetron 4 mg 1 tablet(s) by mouth Every 8 hours as 
needed Disp #*10 Tablet Refills:*0 
6.  Mirtazapine 15 mg PO QHS  
7.  PARoxetine 40 mg PO DAILY  
8.  VSL#3 (Lactobac #2-Bifido #1-S. therm) 112.5 billion cell 
oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal Pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms ___, 

It was a pleasure taking care of you while you were in the 
hospital. You were admitted with abdominal pain and underwent an 
evaluation for the cause. You underwent an EGD and Colonoscopy 
to evaluate the cause. This did not show a cause of your pain 
that would need intervention. You were tapered off of the 
narcotic pain medication and started on several other 
medications for your pain. 

Please take you medications as directed and follow up as noted 
below. 
 
Followup Instructions:
___